US07319104B2
2-[4-(2-{[5-(3-Chlorophenyl)-1,2,4-oxadiazol-3-yl][4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid
Similarly prepared from ethyl 2-[4-(2-{[(E)-amino(hydroxyimino)methyl][4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate and 3-chlorobenzoyl chloride.

reactant | ethyl 2-[4-(2-{[(E)-amino(hydroxyimino)methyl][4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | N\C(=N/O)\N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C23H28F3N3O4
reactant | 3-chlorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
product | 2-[4-(2-{[5-(3-Chlorophenyl)-1,2,4-oxadiazol-3-yl][4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid | ClC=1C=C(C=CC1)C1=NC(=NO1)N(CCC1=CC=C(OC(C(=O)O)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C28H25ClF3N3O4
